US07208495B2
Dimethyl malonate (14.7 g, 111 mmol) was added dropwise to the mixture of sodium methoxide in methanol (methanol solution 28%, 19.3 g, 100 mmol) and methanol (30 ml) under ice cooling and stirred for 15 minutes. To the mixture was added a solution of methyl (2E)-3-(4-fluorophenyl)-2-propenoate (10.0 g, 55.5 mmol) obtained in Reference Example 1 in THF (50 ml) under ice cooling and the mixture was refluxed for 12 hours. The resulting mixture was concentrated under reduced pressure, and the residue was diluted with water. The aqueous layer was acidified with dilute hydrochloric acid, extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified using silica gel column chromatography (hexane/ethyl-acetate=8/1) to obtain 12.7 g (yield 73%) of 2-(4-fluorophenyl)-1,1,3-trimethoxy carbonyl propane via recrystallization (ethyl acetate-hexane). mp. 75–76° C.

reactant | Dimethyl malonate | 111 mmol, 14.7 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl (2E)-3-(4-fluorophenyl)-2-propenoate | 55.5 mmol, 10.0 g | FC1=CC=C(C=C1)/C=C/C(=O)OC | C10H9FO2
solvent | methanol | 30 ml | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | methanol | 100 mmol, 19.3 g | CO | CH4O
product | 2-(4-fluorophenyl)-1,1,3-trimethoxy carbonyl propane | 12.7 g, yield 73% | FC1=CC=C(C=C1)C(C(C(=O)OC)C(=O)OC)CC(=O)OC | C15H17FO6
